* eeschema netlist version 1.1 (spice format) creation date: wednesday 29 may 2013 04:04:50 pm ist
.include npn.lib

v1  6 0 dc 10
* Plotting option vplot8_1
v2  2 0 ac 0.5
r1  3 2 50
r2  6 8 200k
c1  3 8 40u
r3  8 0 50k
r6  4 0 1k
c2  0 5 100u
c3  4 7 40u
r5  6 7 2k
r4  5 0 1.5k
q1 7 8 5 npn

.ac dec 100 100Hz 10KHz

* Control Statements 
.control
run
plot v(4) >> test_data.txt
.endc
.end
