* Subcircuit ua741
.subckt ua741 n-000006 n-000007 n-000003 
* eeschema netlist version 1.1 (spice format) creation date: thursday 11 july 2013 05:13:06 pm ist
rout1  n-000003 n-000002 75
eout1  n-000002 gnd n-000001 gnd 1
cbw1  n-000001 gnd 31.85e-9
rbw1  n-000001 n-000004 0.5e6
ein1  n-000004 gnd n-000007 n-000006 100e3
rin1  n-000007 n-000006 2e6

.ends ua741