* eeschema netlist version 1.1 (spice format) creation date: wednesday 07 august 2013 04:36:33 pm ist
.include 1n4007.lib
.include vplot8.sub

xu1  3 4 1 0 vplot8
v1  3 1 sine(0 5 50 0 0)
r1  4 0 1000
d3  0 3 1n4007
d4  0 1 1n4007
d2  1 4 1n4007
d1  3 4 1n4007

.tran  100e-06 40e-03 0e-00

* Control Statements 
.control
run
.endc
.end
