* eeschema netlist version 1.1 (spice format) creation date: thursday 08 august 2013 11:21:51 am ist
.include npn.lib

* Plotting option vplot8_1
v1  3 0 ac 1
r1  3 2 10k
c1  2 1 10u
r2  1 0 340k
v3  0 8 5
v2  9 0 5
r6  6 0 10k
c2  5 6 10u
r5  7 0 130
c3  10 7 10u
r4  10 8 6k
r3  9 5 10k
q1 5 1 10 npn

.ac dec 100 1Hz 1GHz

* Control Statements 
.control
run
plot v(3) v(6) 
.endc
.end
